US06448281B1
4-Azido-N-{2-[2-(4-formyl-phenoxy)-ethanoylamino]-ethyl}-Benzamide
The crude carbamate (0.257 g, 0.84 mmol) was deprotected by stirring in 4N HCl—dioxane (15 mL) for 2 h at room temperature. Volatiles were removed under reduced pressure to give a pinkish solid. 4-Formylphenoxyacetic acid (0.200 g, 1.1 mmol) was dissolved in DCM (3 mL) and DIEA (0.5 mL) was added followed by TBTU (0.350 g, 1,1 mmol) and the amine salt from above (0.240 g, 1 mmol). The mixture was stirred 4 h at room temperature, dissolved in EtOAc and washed sequentially with 5% aqueous K2CO3, KHSO4, water and brine. The extract was dried (MgSO4) and concentrated under reduced pressure to give an off-white solid (0.162 g).

reactant | carbamate | 0.84 mmol, 0.257 g | C(N)([O-])=O
reactant | 4-Formylphenoxyacetic acid | 1.1 mmol, 0.200 g | C(=O)C1=CC=C(OCC(=O)O)C=C1 | C9H8O4
reactant | DIEA | 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1,1 mmol, 0.350 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | HCl dioxane | 4N, 15 mL | Cl.O1CCOCC1
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Azido-N-{2-[2-(4-formyl-phenoxy)-ethanoylamino]-ethyl}-Benzamide | 0.162 g | N(=[N+]=[N-])C1=CC=C(C(=O)NCCNC(COC2=CC=C(C=C2)C=O)=O)C=C1 | C18H17N5O4
